US05703096
19(a) 5-(4-{2-[1-(2-Ethoxy-5-pyridyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 410 mg of 2-[1-(2-ethoxy-5-pyridyl)ethylideneaminooxy]ethanol (prepared as described in Preparation 19), 655 mg of 5-(4-hydroxy-benzyl)-3-tritylthiazolidine-2,4-dione, 480 mg of triphenylphosphine and 319 mg of diethyl azodicarboxylate, 763 mg of the title compound were obtained as a foam-like solid.

reactant | 2-[1-(2-ethoxy-5-pyridyl)ethylideneaminooxy]ethanol | 410 mg | C(C)OC1=NC=C(C=C1)C(C)=NOCCO | C11H16N2O3
reactant | 5-(4-hydroxy-benzyl)-3-tritylthiazolidine-2,4-dione | 655 mg | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 480 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 319 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(4-{2-[1-(2-Ethoxy-5-pyridyl)ethylideneaminooxy]ethoxy}benzyl)-3-tritylthiazolidine-2,4-dione | 763 mg | C(C)OC1=NC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C40H37N3O5S
